US07078428B2
3-Hydroxy-2-ethyl-2,3-dihydroisoindol-1-one is prepared as described in Example 1, starting with 4.0 g of N-ethylphthalimide in 20 cm3 of methanol and 1.2 g of potassium borohydride. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours and is then cooled to a temperature in the region of 0° C. and distilled water is added dropwise. The precipitate obtained is filtered off and then washed with cold water. The methanol is then partially evaporated from the filtrate under reduced pressure (2 kPa) at a temperature in the region of 35° C., and the residue is cooled to 0° C. The second precipitate thus obtained is filtered off and then washed with cold water. The two fractions of solid are dried under reduced pressure (2 kPa) at a temperature in the region of 35° C. 1.9 g of 3-hydroxy-2-ethyl-2,3-dihydroisoindol-1-one are thus obtained in the form of a flaky white powder. (Rf=0.5, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (30/70 by volume)).

reactant | N-ethylphthalimide | 4.0 g | C(C)N1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO2
solvent | methanol | 20 cm3 | CO | CH4O
solvent | potassium borohydride | 1.2 g | [BH4-].[K+]
product | 3-hydroxy-2-ethyl-2,3-dihydroisoindol-1-one | 1.9 g | OC1N(C(C2=CC=CC=C12)=O)CC | C10H11NO2
